US06239131B1
Preparation of 1-tert-butylcarbonylmethyl-2-oxo-3-amino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
1-tert-Butylcarbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (1 g) was dissolved in chloroform (10 ml), 4N HCl-dioxane (5 ml) was added to the solution, and the mixture was stirred at 50° C. for one hour. After the reaction mixture was allowed to cool, crystals so precipitated were collected by filtration. The crystals were neutralized with saturated aqueous sodium bicarbonate, and extracted with methylene chloride, dried over anhydrous sodium sulfate, to thereby obtain 720 mg of the titled compound (Yield: 92%).

reactant | 1-tert-Butylcarbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1 g | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C(C(C)(C)C)=O)NC(=O)OC(C)(C)C)=O | C25H37N3O5
reactant | HCl dioxane | 4N, 5 ml | Cl.O1CCOCC1
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-tert-butylcarbonylmethyl-2-oxo-3-amino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 720 mg, Yield: 92% | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C(C(C)(C)C)=O)N)=O | C20H29N3O3
